US06288061B1
Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate (10.6 g) and 3-aminomethylquinoline (8.5 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methylphenyl)-2-(3-quinolyl)imidazole-4-carboxylate (7.0 g). 6.7 g therefrom was dissolved in ethyl alcohol (135 ml), and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methylphenyl)-2-(3-quinolyl)imidazole-4-carboxylic acid (2.5 g), melting point 224° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate | 10.6 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13NO4
reactant | 3-aminomethylquinoline | 8.5 g | NCC=1C=NC2=CC=CC=C2C1 | C10H10N2
product | ethyl 5-(4-methylphenyl)-2-(3-quinolyl)imidazole-4-carboxylate | 7.0 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C=1C=NC2=CC=CC=C2C1)C(=O)OCC | C22H19N3O2
